US08957078B2
Methyl 2-((3-methyl-4-nitroisothiazol-5-yl)carbamoyl)benzoate was suspended in MeOH (30 mL), Pd/C 10% (477.1 mg, 4.483 mmol) was added and the mixture was hydrogenated at RT under 1 atm of hydrogen (balloon pressure) for 2 h. The catalyst was filtered off and the mixture was concentrated in vacuo, yielding methyl 2-((4-amino-3-methylisothiazol-5-yl)carbamoyl)benzoate. (150 mg, 100%). MS (ES+) 292.1.

reactant | Methyl 2-((3-methyl-4-nitroisothiazol-5-yl)carbamoyl)benzoate | CC1=NSC(=C1[N+](=O)[O-])NC(=O)C1=C(C(=O)OC)C=CC=C1 | C13H11N3O5S
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 30 mL | CO | CH4O
catalyst | Pd/C | 4.483 mmol, 477.1 mg | [Pd] | Pd
product | methyl 2-((4-amino-3-methylisothiazol-5-yl)carbamoyl)benzoate | NC=1C(=NSC1NC(=O)C1=C(C(=O)OC)C=CC=C1)C | C13H13N3O3S
